US08202865B2
Step 1: Methyl 3-formyl-4-hydroxybenzoate
3-formyl-4-hydroxybenzoic acid (Aldrich 633488, 20 g; 120.39 mmol; 1 eq.) was dissolved in MeOH (400 mL). The solution was cooled down to 0°. SOCl2 (26.20 mL; 361.16 mmol; 3 eq.) was added dropwise (addition took 60 min and the temperature of the reaction mixture increased to 7.6° C.). The reaction mixture was stirred at RT for 24 hours. The reaction mixture was concentrated and the crude mixture was dissolved in EtOAc (500 mL) and washed with a saturated aqueous solution of NaHCO3 (300 mL), HCl 1N (300 mL) and brine (300 mL), dried over MgSO4 and concentrated affording the title compound as a beige solid (19.86 g, 91%). 1H NMR (DMSO-d6, 300 MHz) δ 8.25-8.24 (d, J=2.33 Hz, 1H), 8.08-8.03 (dd, J=8.79 Hz, 2.33 Hz, 1H), 7.12-7.09 (d, J=8.75 Hz, 1H), 3.83 (s, 3H). LC/MS (Method B): 179.1 (M−H)−. HPLC (Method A) Rt 3.04 min (Purity: 91.6%).

reactant | 3-formyl-4-hydroxybenzoic acid | 120.39 mmol, 20 g, 1 eq. | C(=O)C=1C=C(C(=O)O)C=CC1O | C8H6O4
reactant | SOCl2 | 361.16 mmol, 26.20 mL, 3 eq. | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 400 mL | CO | CH4O
product | Methyl 3-formyl-4-hydroxybenzoate | 19.86 g, 91% | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
